US07393868B2
Propane-2-sulfonic acid [2-(2′-cyano-4′-methanesulfonylaminocarbonyl-biphenyl-4-yl)-thiophen-3-yl]-amide
Add methanesulfonamide (0.28 mmol), EDCI (0.28 mmol) and DMAP (0.28 mmol) to a solution of 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid (0.235 mmol) in DCM. Stir 8 h at RT. Add 1N HCl and extract with DCM. Concentrate all organic layers to dryness. Purify by HPLC to provide the title compound. MS (ES−): 502 (M−1)

reactant | methanesulfonamide | 0.28 mmol | CS(=O)(=O)N | CH5NO2S
reactant | EDCI | 0.28 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid | 0.235 mmol | C(#N)C1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C21H18N2O4S2
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 0.28 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Propane-2-sulfonic acid [2-(2′-cyano-4′-methanesulfonylaminocarbonyl-biphenyl-4-yl)-thiophen-3-yl]-amide | C(#N)C1=C(C=CC(=C1)C(=O)NS(=O)(=O)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C22H21N3O5S3
